US05102877
A solution of (2R,4R)-1-(tert-butoxycarbonyl)-4-methanesulfonyloxy-2-methylpyrrolidine (2.3 g) and sodium cyanide (1.37 g) in dimethyl sulfoxide (25 ml) was heated for two and a half hours at 90° C. The reaction mixture was poured into a mixture of water (100 ml) and ethyl acetate (100 ml). The organic layer was separated, washed with brine, and dried over magnesium sulfate. Evaporation of the solvent gave an oil, which was chromatographed on silica gel (100 ml) eluting with a mixture of hexane and ethyl acetate (4:1, V/V) to give (2R,4S)-1-(tert-butoxycarbonyl)-4-cyano-2-methylpyrrolidine (1.24 g).

reactant | (2R,4R)-1-(tert-butoxycarbonyl)-4-methanesulfonyloxy-2-methylpyrrolidine | 2.3 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)C | C11H21NO5S
reactant | sodium cyanide | 1.37 g | [C-]#N.[Na+]
reactant | water | 100 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
product | (2R,4S)-1-(tert-butoxycarbonyl)-4-cyano-2-methylpyrrolidine | 1.24 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)C#N)C | C11H18N2O2
